US04076820
2-Methanesulphonamido-1,3,4,6,7,11b-hexahydro-10-methyl-2H-benzo[a]quinolizine
2-Amino-1,3,4,6,7,11b-hexahydro-10-methyl-2H-benzo[a]quinolizine [prepared from 1,3,4,6,7,11b-hexahydro-10-methyl-2H-benzo[a]quinolizin-2-one (Neth.Appln. No. 6,508,468) by reduction of the oxime] is reacted with methane sulphonyl chloride by a process analogous to that of Example 7(a) to give the title compound.

reactant | 2-Amino-1,3,4,6,7,11b-hexahydro-10-methyl-2H-benzo[a]quinolizine | NC1CCN2CCC3=C(C2C1)C=C(C=C3)C | C14H20N2
reactant | 1,3,4,6,7,11b-hexahydro-10-methyl-2H-benzo[a]quinolizin-2-one | CC=1C=CC2=C(C3CC(CCN3CC2)=O)C1 | C14H17NO
reactant | methane sulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 2-Methanesulphonamido-1,3,4,6,7,11b-hexahydro-10-methyl-2H-benzo[a]quinolizine | CS(=O)(=O)NC1CCN2CCC3=C(C2C1)C=C(C=C3)C | C15H22N2O2S
